US07935699B2
In a round bottom flask was placed (R)—N-{1-[2-(tert-butyl-dimethyl-silanyloxy)-ethyl]-1H-pyrazol-3-yl}-2-(3-cyano-4-methanesulfonyl-phenyl)-3-cyclopentyl-propionamide (102 mg, 0.19 mmol), ethanol (2 mL), and concentrated hydrochloric acid (3 drops). It was stirred at 25° C. for 1 h. The reaction was then diluted with some acetonitrile and concentrated with silica gel (2 g) in vacuo and purified on a Biotage Flash chromatography system (40S column, silica gel, 100% ethyl acetate to 10% methanol/ethyl acetate) to afford (R)-2-(3-cyano-4-methanesulfonyl-phenyl)-3-cyclopentyl-N-[1-(2-hydroxy-ethyl)-1H-pyrazol-3-yl]-propionamide (63 mg, 77%) as a light yellow solid: [α]30589=−40.0° (c=0.10, methanol); ES-HRMS m/e calcd for C21H26N4O4S (M+H)+ 431.1748, observed 431.1749; 1H NMR (400 MHz, DMSO-d6) δ 1.12 (m, 2H, CH2), 1.38-1.78 (m, 8H, 4×CH2), 2.12 (m, 1H, CH), 3.36 (s, 3H, SO2CH3), 3.67 (m, 2H, OCH2), 3.86 (m, 3H, ArCHCO and NCH2), 4.83 (t, J=5.3 Hz, 1 H, OH), 6.41 (d, J=2.2 Hz, 1H, Ar), 7.54 (d, J=2.2 Hz, 1H, Ar), 7.95 (dd, Jm=1.6 Hz, Jo=8.2 Hz, 1H, Ar), 8.11 (d, Jm=1.6 Hz, 1H, Ar), 8.11 (d, Jo=8.2 Hz, 1H, Ar), 10.83 (s, 1H, NH).

reactant | (R)—N-{1-[2-(tert-butyl-dimethyl-silanyloxy)-ethyl]-1H-pyrazol-3-yl}-2-(3-cyano-4-methanesulfonyl-phenyl)-3-cyclopentyl-propionamide | 0.19 mmol, 102 mg | C(C)(C)(C)[Si](OCCN1N=C(C=C1)NC([C@H](CC1CCCC1)C1=CC(=C(C=C1)S(=O)(=O)C)C#N)=O)(C)C | C27H40N4O4SSi
reactant | ethanol | 2 mL | C(C)O | C2H6O
catalyst | hydrochloric acid | 3 drops | Cl | ClH
solvent | acetonitrile | C(C)#N | C2H3N
product | (R)-2-(3-cyano-4-methanesulfonyl-phenyl)-3-cyclopentyl-N-[1-(2-hydroxy-ethyl)-1H-pyrazol-3-yl]-propionamide | 63 mg, 77% | C(#N)C=1C=C(C=CC1S(=O)(=O)C)[C@H](C(=O)NC1=NN(C=C1)CCO)CC1CCCC1 | C21H26N4O4S
